US07897619B2
Isoquinoline-6-carbonitrile:
6-Bromoisoquinoline (0.876 g, 4.18 mmol) purchased from Gateway Chemical Technology, Inc. was mixed with CuCN (1.12 g, 12.54 mmol) in 5 mL NMP in a microwave heating tube. The tube was heated under microwave to 150° C. for 1 hour and 170° C. for one hour. The reaction mixture was partitioned between EtOAc and saturated aqueous NaHCO3. After removing the solvent, the remaining residue was passed through a silica gel plug using 5% 2M ammonia in MeOH in DCM as the eluant. The crude product (100 mg) was used directly in the next step.

reactant | 6-Bromoisoquinoline | 4.18 mmol, 0.876 g | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | CuCN | 12.54 mmol, 1.12 g | C(#N)[Cu]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | Isoquinoline-6-carbonitrile | C1=NC=CC2=CC(=CC=C12)C#N | C10H6N2
